US07923450B2
b) 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-8-pyridin-3-yl-5,6,7,8-tetrahydro-quinazolin-8-ol
The title compound was prepared from crude 6-[1-dimethylamino-meth-(E)-ylidene]-2-hydroxy-2-pyridin-3-yl-cyclohexanone (59 mg, 0.24 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (74 mg, 0.20 mmol) using in analogous manner the procedure described in example 45b). Obtained as a yellow solid (54 mg, 63%). MS ISP (m/e): 429.3 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.63 (s, 1H), 8.51 (s, 1H), 8.42 (m, 2H), 7.72 (s, 1H), 7.68 (d, 1H), 7.62 (s, 1H), 7.33 (dd, 1H), 7.04 (s, 2H), 6.97 (s, 1H), 5.95 (s, 1H), 5.76 (s, 1H), 3.39 (s, 3H), 2.75 (m, 3H), 2.12 (s, 3H), 2.02 (m, 3H), 1.75 (m, 1H).

reactant | 6-[1-dimethylamino-meth-(E)-ylidene]-2-hydroxy-2-pyridin-3-yl-cyclohexanone | 0.24 mmol, 59 mg | CN(\C=C\1/CCCC(C1=O)(C=1C=NC=CC1)O)C | C14H18N2O2
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.20 mmol, 74 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-8-pyridin-3-yl-5,6,7,8-tetrahydro-quinazolin-8-ol | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)(O)C=1C=NC=CC1 | C24H24N6O2
